US07504508B2
To a solution of (±)-cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-(N-4-chlorophenyl)aminoquinoline (120 mg, 0.29 mmol) in methylene chloride (2 mL) was added diisopropylethylamine (37 mg, 0.051 mL, 0.29 mmol) followed by acetyl chloride (2 mL). The mixture was stirred at rt 4 h. The mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with sat. aqueous sodium bicarbonate, brine and dried over sodium sulfate. The drying agent was removed by filtration under reduced pressure, concentrated and purified by silica gel chromatography (100% hexanes-25/75 hexanes/ethyl acetate gradient) to afford pure (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (45 mg, 34%).

reactant | (±)-cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-(N-4-chlorophenyl)aminoquinoline | 0.29 mmol, 120 mg | CN(C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)NC2=CC=C(C=C2)Cl)C)C=C1)C | C25H26ClN3O
reactant | diisopropylethylamine | 0.29 mmol, 0.051 mL, 37 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 45 mg, 34% | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)N(C)C)=O)C | C27H28ClN3O2
